US08497281B2
Step 1: 5,6-dihydro-benzo[f]quinoline-8-carboxylic acid methyl ester
A flask charged with 8-bromo-5,6-dihydro-benzo[f]quinoline (4.00 g), triethylamine (3.0 mL), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium dichloromethane complex (0.63 g), N,N-dimethylformamide (5 mL), and methanol (20 ml) is flushed with argon for 5 min and with carbon monoxide for another 5 min. The mixture is then heated to 80° C. under carbon monoxide atmosphere (4 bar) and shaken at this temperature overnight. After cooling to room temperature, the mixture is filtered and concentrated under reduced pressure. The residue is taken up in ethyl acetate and washed with water and brine and dried (Na2SO4). The solvent is evaporated and the residue is chromatographed on silica gel (cyclohexane/ethyl acetate 1:1→0:1) to afford the title compound as a solid. Yield: 3.16 g (86% of theory); LC (method 1): tR=2.18 min; Mass spectrum (ESI+): m/z=240 [M+H]+.

reactant | 8-bromo-5,6-dihydro-benzo[f]quinoline | 4.00 g | BrC1=CC2=C(C=3C=CC=NC3CC2)C=C1 | C13H10BrN
reactant | triethylamine | 3.0 mL | C(C)N(CC)CC | C6H15N
reactant | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
reactant | methanol | 20 ml | CO | CH4O
product | 5,6-dihydro-benzo[f]quinoline-8-carboxylic acid methyl ester | COC(=O)C1=CC2=C(C=3C=CC=NC3CC2)C=C1 | C15H13NO2
